US05210092
A mixture of 3-(4-methylphenyl)benzo[b]furan-2-carbonitrile (239 mg), N-bromosuccinimide (182 mg), and 2,2'-azobisisobutyronitrile (10 mg) in carbon tetrachloride (5 ml) was refluxed for 5 hours and cooled to ambient temperature. The precipitates were filtered off. The filtrate was washed with aqueous sodium bicarbonate solution (×3), dried, and concentrated in vacuo to give a yellow oil, which was crystallized from n-hexane to yield 3-(4-bromomethylphenyl)benzo[b]furan-2-carbonitrile (300 mg) as a yellow solid.

reactant | 3-(4-methylphenyl)benzo[b]furan-2-carbonitrile | 239 mg | CC1=CC=C(C=C1)C=1C2=C(OC1C#N)C=CC=C2 | C16H11NO
reactant | N-bromosuccinimide | 182 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2'-azobisisobutyronitrile | 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 3-(4-bromomethylphenyl)benzo[b]furan-2-carbonitrile | 300 mg | BrCC1=CC=C(C=C1)C=1C2=C(OC1C#N)C=CC=C2 | C16H10BrNO
